US07439395B2
1.33 g (11.34 mmol) of N,N-diethyltrimethylsilylamine are added over the course of 5 minutes at room temperature and with vigorous stirring to 2.50 g (10.22 mmol) of 1,3-dimethyl-2-chloroimidazolidinium methylsulfate in 10 ml of dry chloroform. The solvent is distilled off, and the residue is washed three times with 5 ml of diethyl ether and subsequently dried under a reduced pressure of 7.0 Pa and at 50° C. for 1 hour. The product is crystallised from a mixture of tetrahydrofuran:diethyl ether (1:1), giving 2.22 g of 1,3-dimethyl-2-dimethylaminoimidazolidinium methylsulfate, corresponding to a yield of 85.7%.

reactant | N,N-diethyltrimethylsilylamine | 11.34 mmol, 1.33 g | C(C)N(CC)[Si](C)(C)C | C7H19NSi
reactant | 1,3-dimethyl-2-chloroimidazolidinium methylsulfate | 10.22 mmol, 2.50 g | COS(=O)(=O)[O-].C[NH+]1C(N(CC1)C)Cl
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-dimethyl-2-dimethylaminoimidazolidinium methylsulfate | 2.22 g, yield of 85.7% | COS(=O)(=O)[O-].C[NH+]1C(N(CC1)C)N(C)C | InChI=1S/C7H17N3.CH4O4S/c1-8(2)7-9(3)5-6-10(7)4;1-5-6(2,3)4/h7H,5-6H2,1-4H3;1H3,(H,2,3,4)
